US06727264B1
7-CHLORO-1-PHENYL-1H-INDOLE:
Prepared by Procedure C and Scheme O using 7-chloro-1H-indole and iodobenzene: ESMS m/e: 228.0 (M+H)+.

reactant | 7-chloro-1H-indole | ClC=1C=CC=C2C=CNC12 | C8H6ClN
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | 7-CHLORO-1-PHENYL-1H-INDOLE | ClC=1C=CC=C2C=CN(C12)C1=CC=CC=C1 | C14H10ClN
